US06380178B1
2-(3-Chlorobenzyl)acetaldehyde
To a 25° C. solution of 3-chlorostyrene in anhydrous CH2Cl2 ( 10.0 g, 72.15 mmol) was added a well-stirred solution of Pb(OAc)4 (35.2 g, 79.4 mmol) in trifluoroacetic acid (150 mL), dropwise. Reaction was completed within 30 minutes of the addition and after being stirred for a further 30 minutes, the mixture was poured into water, extracted with ether (3×), the combined organic layers were washed with saturated NaHCO3 solution, water, dried (MgSO4), and concentrated to a volume of about 15 mL and immediately used for the following reaction described below.

reactant | 3-chlorostyrene | ClC=1C=C(C=C)C=CC1 | C8H7Cl
reactant | CH2Cl2 | 72.15 mmol, 10.0 g | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
solvent | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(3-Chlorobenzyl)acetaldehyde | ClC=1C=C(CCC=O)C=CC1 | C9H9ClO
